US09388189B2
(S)—N-(5-(4-Amino-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)pyridin-3-yl)-4-hydroxybenzenesulfonamide
(S)—N-(5-(4-Amino-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)pyridin-3-yl)-4-methoxybenzenesulfonamide (132 mg, 0.11 mmol) was treated with boron tribromide (1M in dichloromethane, 337 μl, 0.34 mmol) in dichloromethane (10 ml) according to the method described in Example 23. The residue was purified by reverse phase using SP1® Purification System to give 10 mg (15% yield) as a solid. Purity 99%.

reactant | (S)—N-(5-(4-Amino-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)pyridin-3-yl)-4-methoxybenzenesulfonamide | 0.11 mmol, 132 mg | NC1=NC=NC(=C1C=1C=C(C=NC1)NS(=O)(=O)C1=CC=C(C=C1)OC)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C31H29N9O4S
reactant | boron tribromide | 0.34 mmol, 1M, 337 μl | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (S)—N-(5-(4-Amino-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)pyridin-3-yl)-4-hydroxybenzenesulfonamide | 15% yield | NC1=NC=NC(=C1C=1C=C(C=NC1)NS(=O)(=O)C1=CC=C(C=C1)O)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C30H27N9O4S
